US04001426
When p-anisoyl chloride and 2-[4'-(2-bromoethoxy)phenyl]benzofuran are reacted by the procedure described in Example 11 and the 2-[4'-(2-bromoethoxy)phenyl]-3-p-anisoylbenzofuran thus obtained is treated with piperidine as described in Example 11, the title compound is obtained.

reactant | p-anisoyl chloride | C(C1=CC=C(C=C1)OC)(=O)Cl | C8H7ClO2
reactant | 2-[4'-(2-bromoethoxy)phenyl]benzofuran | BrCCOC1=CC=C(C=C1)C=1OC2=C(C1)C=CC=C2 | C16H13BrO2
product | 2-[4'-(2-bromoethoxy)phenyl]-3-p-anisoylbenzofuran | BrCCOC1=CC=C(C=C1)C=1OC2=C(C1C(C1=CC=C(C=C1)OC)=O)C=CC=C2 | C24H19BrO4
